US08536168B2
2-[(S)-4-(4-Benzyl-phthalazin-1-yl)-2-methoxycarbonyl-piperazin-1-yl]-4-trifluoromethyl-pyrimidine-5-carboxylic acid ethyl ester
To a methylene chloride (0.02M) solution of (S)-4-(5-Methoxycarbonyl-4-trifluoromethyl-pyrimidin-2-yl)-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl-ester (69 mg, 0.153 mmol), is added 1N HCl (2 mmol), 2M in diethyl ether. Stir reaction mixture at room temperature for 18 h. Concentrate and dilute with dioxane (0.1 M), followed by addition of 1-benzyl-4-chloro-phthalazine (0.153 mmol) and triethylamine (0.459 mmol). Microwave reaction mixture for 30 min at 150° C. MS shows some starting material still present. Microwave for an additional 2.5 h at 150° C. Concentrate reaction mixture and purify by column chromatography 0-75% ethyl acetate/heptane gradient to afford the title compound. (8% yield)

reactant | (S)-4-(5-Methoxycarbonyl-4-trifluoromethyl-pyrimidin-2-yl)-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl-ester | 0.153 mmol, 69 mg | COC(=O)[C@@H]1CN(CCN1C1=NC=C(C(=N1)C(F)(F)F)C(=O)OC)C(=O)OC(C)(C)C | C18H23F3N4O6
reactant | HCl | 2 mmol, 1N | Cl | ClH
reactant | 1-benzyl-4-chloro-phthalazine | 0.153 mmol | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)Cl | C15H11ClN2
reactant | triethylamine | 0.459 mmol | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 0.02M | C(Cl)Cl | CH2Cl2
product | 2-[(S)-4-(4-Benzyl-phthalazin-1-yl)-2-methoxycarbonyl-piperazin-1-yl]-4-trifluoromethyl-pyrimidine-5-carboxylic acid ethyl ester | 8% yield | C(C)OC(=O)C=1C(=NC(=NC1)N1[C@@H](CN(CC1)C1=NN=C(C2=CC=CC=C12)CC1=CC=CC=C1)C(=O)OC)C(F)(F)F | C29H27F3N6O4
